US04016148
In the manner analogous to that given in Example 1 (b), from the (+)-α-methylbenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-glycyl)amino] -ethylphosphonic acid there was obtained (1R)-1-glycylamino-ethylphosphonic acid of melting point 277°-280° C (decomposition); [α]D20 =- 69.6°(c = 1% in water).

reactant | (+)-α-methylbenzylamine | CC(C1=CC=CC=C1)N | C8H11N
reactant | (1R)-1-[(N-benzyloxycarbonyl-glycyl)amino] -ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)NCC(=O)N[C@@H](C)P(O)(O)=O | C12H17N2O6P
product | (1R)-1-glycylamino-ethylphosphonic acid | NCC(=O)N[C@@H](C)P(O)(O)=O | C4H11N2O4P
